US07378553B2
Synthesis of N-methyl-3-phenoxy-3-phenylpropylamine (D-ATM)
Under stirring, while maintaining the temperature between about 15° and about 25° C. with an ice-water bath, 12.3 g of 36 percent aqueous hydrogen chloride are dropped on the filtered organic phase, resulting in the crystallization of D-ATM hydrochloride (mw 277.80). The resulting suspension is stirred at about 20° C. for 1 hour, the solid is collected by filtration, washed twice with 40 ml of n-butyl acetate, and dried for 18 hours under vacuum at about 50° to about 60° C., yielding 32.7 g of product, a 48 percent yield based on the N-methyl-3-hydroxy-3-phenylpropylamine starting material, having a melting point of about 170° to about 174° C. The D-ATM HCl is found by chiral HPLC to be a mixture of enantiomers, with a relative ratio of 69:31.

reactant | N-methyl-3-hydroxy-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)O | C10H15NO
reactant | HCl | Cl | ClH
product | N-methyl-3-phenoxy-3-phenylpropylamine | CNCCC(C1=CC=CC=C1)OC1=CC=CC=C1 | C16H19NO
